US08536185B2
In a flask containing 3-flourobenzonitrile (Matrix Scientific, 3.0 g, 25 mmol) was added methanol (30 mL) and sodium methoxide (Aldrich, 25% by wt. in methanol, 2.83 mL, 12.4 mmol). The reaction mixture was stirred for 1.5 hours and aminoacetaldehyde dimethyl acetal (Alfa Aesar, 2.60 g, 24.8 mmol) and acetic acid (2.83 mL, 49.5 mmol) were subsequently added and the solution was heated at reflux for one hour. After cooling to room temperature, methanol (25 mL) and 6 N HCl (8 mL) was added and the solution was heated at reflux for 16 hours. After cooling the solution to room temperature the residue was taken up in a 1:1 mixture (v/v) of water and ethyl acetate (50 mL). The aqueous layer was separated and the pH of this solution was adjusted to pH 9 with 2 N NaOH, upon which a white precipitate formed in solution. The solid was collected by filtration and dried under high vacuum to provide 2-(3-fluorophenyl)-1H-imidazole as an off-white solid (1.67 g, 41% yield, MS (ESI+) m/z 163.1 (M+1).

reactant | 3-flourobenzonitrile | 25 mmol, 3.0 g | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | sodium methoxide | 12.4 mmol, 2.83 mL | C[O-].[Na+]
reactant | aminoacetaldehyde dimethyl acetal | 24.8 mmol, 2.60 g | COC(CN)OC | C4H11NO2
reactant | acetic acid | 49.5 mmol, 2.83 mL | C(C)(=O)O | C2H4O2
reactant | HCl | 6 N, 8 mL | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | methanol | 25 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
product | 2-(3-fluorophenyl)-1H-imidazole | 41% yield | FC=1C=C(C=CC1)C=1NC=CN1 | C9H7FN2
